US08067408B2
1,1-Dimethylethyl (2S)-4-{[3-(4-cyano-2-pyridinyl)phenyl]methyl}-2-methyl-1-piperazinecarboxylate
To 2-chloro-4-pyridinecarbonitrile (0.416 g, 3 mmol) was added 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate (1.499 g, 3.60 mmol) followed by K2CO3 (1.244 g, 9.00 mmol) and Pd(Ph3P)4 (0.139 g, 0.120 mmol) in 1,4-dioxane (15.00 mL) and water (5.00 mL). The mixture was heated in a microwave oven for 30 min at 140° C. The organic layer was collected and the aqueous layer was extracted once with EtOAc (3 mL). The combined organic layers were filtered, concentrated on Glas-Col, redissolved in hexane/DCM (3:1, 4 mL), loaded onto Redisep silica gel column (12 g) and purified with Combiflash chromatography. Fractions were collected and the solvent was removed under reduced pressure to afford 1.10 g (94%) of the title compound. LC-MS m/z 393 (M+H)+.

reactant | 2-chloro-4-pyridinecarbonitrile | 3 mmol, 0.416 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | 1,1-dimethylethyl (2S)-2-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperazinecarboxylate | 3.60 mmol, 1.499 g | C[C@@H]1N(CCN(C1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C23H37BN2O4
reactant | K2CO3 | 9.00 mmol, 1.244 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 15.00 mL | O1CCOCC1 | C4H8O2
solvent | water | 5.00 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.120 mmol, 0.139 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-Dimethylethyl (2S)-4-{[3-(4-cyano-2-pyridinyl)phenyl]methyl}-2-methyl-1-piperazinecarboxylate | 1.10 g, 94% | C(#N)C1=CC(=NC=C1)C=1C=C(C=CC1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C23H28N4O2
